US04268675
a Formation of 5-[1-(3,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole
A 100 milliliter, 3-neck flask adapted with a Claisen adaptor, paddle stirrer, thermometer, an addition funnel and condenser, was charged with 9.4 grams (0.040 mole) of 2-(3,4-dichlorophenoxy)propanoic acid, (3.6 grams, 0.040 mole) of thiosemicarbazide and 30 milliliters of dioxane and heated to 90° C. The addition funnel was charged with phosphorous oxychloride (POCl3), (6.7 grams, 0.044 mole) which was slowly added (for 15 minutes) while maintaining the temperature within 85°-90° C. The resulting mixture was refluxed for approximately 100 minutes, and then topped with a water aspirator to remove volatiles (HCl, POCl3 and some dioxane). Fifty (50) milliliters of water was added and 50 percent solution of NaOH was also added until the pH of the solution was 10; a solid precipitate formed. The solid precipitate was filtered off and partially air dried, and was recrystallized from the minimum amount of H2O/ethanol mixture, filtered and then dried in a vacuum oven at 80° C. to 8.0 grams of fluffy white crystals of 5-[1-(3,4-dichlorophenoxy)ethyl]-2amino-1,3,4-thiadiazole. (Melting point 136°-138° C.).

reactant | 2-(3,4-dichlorophenoxy)propanoic acid | 0.040 mole, 9.4 grams | ClC=1C=C(OC(C(=O)O)C)C=CC1Cl | C9H8Cl2O3
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | dioxane | 30 milliliters | O1CCOCC1 | C4H8O2
reactant | phosphorous oxychloride | 0.044 mole, 6.7 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 5-[1-(3,4-dichlorophenoxy)ethyl]-2-amino-1,3,4-thiadiazole | ClC=1C=C(OC(C)C2=NN=C(S2)N)C=CC1Cl | C10H9Cl2N3OS
